US06992087B2
methyl 2-aminobutanoate hydrochloride
Following the procedure for the preparation of methyl amino(cyclopropyl)acetate hydrochloride but substituting alpha-aminobutyric acid and making non-critical variations provided the title compound as a solid: MS (ESI+) for C5H11NO2 m/z 235 (2M+H)+.

reactant | methyl amino(cyclopropyl)acetate hydrochloride | Cl.NC(C(=O)OC)C1CC1
reactant | alpha-aminobutyric acid | NC(C(=O)O)CC | C4H9NO2
product | methyl 2-aminobutanoate hydrochloride | Cl.NC(C(=O)OC)CC | InChI=1S/C5H11NO2.ClH/c1-3-4(6)5(7)8-2;/h4H,3,6H2,1-2H3;1H
